US04049669
A solution of 19.7 g. of 5-(2-aminoethyl)thiomethyl-4-methylthiazole and 11.2 g. of N-cyano-N', S-dimethylisothiourea in 500 ml. of acetonitrile is refluxed for 24 hours. The mixture is concentrated and the residue is chromatographed on a column of silica gel to give N-cyano-N'-methyl-N"-[2-(4-methyl-5-thiazolylmethylthio)ethyl]guanidine.

reactant | 5-(2-aminoethyl)thiomethyl-4-methylthiazole | NCCSCC1=C(N=CS1)C | C7H12N2S2
reactant | N-cyano-N', S-dimethylisothiourea | C(#N)NC(SC)=NC | C4H7N3S
solvent | acetonitrile | C(C)#N | C2H3N
product | N-cyano-N'-methyl-N"-[2-(4-methyl-5-thiazolylmethylthio)ethyl]guanidine | C(#N)NC(=NCCSCC1=C(N=CS1)C)NC | C10H15N5S2
